US08222248B2
To a solution of 4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2,6-dimethylbenzaldehyde (145 mg, 0.55 mmol) and 3,4-diamino-N-(3,4-dimethylphenyl)-benzamide (153 mg, 0.55 mmol) in DMSO (8 mL) was added Yb(OTf)3 (68 mg, 0.11 mmol) and the mixture was stirred at ambient temperature overnight. The reaction mixture was partioned between water and EtOAc and the aqueous layer was extracted with EtOAc. The organic layer was washed with water, brine, dried with MgSO4, filtered and concentrated. Purification by flash chromatography using heptane/EtOAc (1:2) as eluent gave 2-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2,6-dimethylphenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethylphenyl)-amide as a pale yellow solid 1H NMR (Methanol-d4, 400 MHz): δ 8.30 (d, 1H), 7.90 (d, 1H), 7.77 (dd, 1H), 7.47 (s, 1H), 7.44 (dd, 1H), 7.13 (d, 1H), 6.79 (s, 2H), 4.51 (m, 1H), 4.19 (q, 1H), 4.07 (d, 2H), 3.91 (q, 1H), 2.29 (s, 3H), 2.26 (s, 3H), 2.15 (s, 6H), 1.44 (s, 3H), 1.38 (s, 3H). MS (m/z) 500.3 (M+1); Retention time: 1.51 min (Method 10).

reactant | 4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2,6-dimethylbenzaldehyde | 0.55 mmol, 145 mg | CC1(OC[C@H](O1)COC1=CC(=C(C=O)C(=C1)C)C)C | C15H20O4
reactant | 3,4-diamino-N-(3,4-dimethylphenyl)-benzamide | 0.55 mmol, 153 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC1N | C15H17N3O
reactant | Yb(OTf)3 | 0.11 mmol, 68 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
reactant | water | O | H2O
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2,6-dimethylphenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethylphenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)OC[C@H]2OC(OC2)(C)C)C)C=C1 | C30H33N3O4
